US07491735B2
A mixture of 4′-aminoacetophenone (1.45 g, 10.7 mmol), ethylene glycol (2.00 g, 32.2 mmol), and p-TsOH.H2O (2.45 g, 12.9 mmol) in toluene (30 mL) were heated to reflux under a Dean-Stark trap for 3.5 h. Basic work-up and purification gave 4-(2-methyl-[1,3]dioxolan-2-yl)-phenylamine as colourless crystals (0.67 g, 35%).

reactant | 4′-aminoacetophenone | 10.7 mmol, 1.45 g | NC1=CC=C(C=C1)C(C)=O | C8H9NO
reactant | ethylene glycol | 32.2 mmol, 2.00 g | C(CO)O | C2H6O2
reactant | p-TsOH.H2O | 12.9 mmol, 2.45 g | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(2-methyl-[1,3]dioxolan-2-yl)-phenylamine | 0.67 g, 35% | CC1(OCCO1)C1=CC=C(C=C1)N | C10H13NO2
